US07846963B2
40 mg of 1,2-phenylenediamine (0.37 mmol), 77 mg of EDC (0.4 mmol) and 1 mg of DMAP (3 M %) were added to reaction solution dissolving 3-(1-benzyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionic acid prepared by above Example 8 in 1 ml of methylene chloride under Argon atmosphere. After the mixture was stirred for 13 hrs at room temperature, the resulting mixture was diluted with ethyl acetate and washed with 10% NaOH solution (10 ml). Then the residue was extracted with 50 ml of chloroform, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The resultant was purified by Silica gel column chromatography with a solvent mixture mixed with methanol and chloroform (1:20) as an eluant to give 96 mg of N-(2-amino-phenyl)-3-(1-benzyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionamide (g2) (yield: 91%).

reactant | 1,2-phenylenediamine | 0.37 mmol, 40 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | EDC | 0.4 mmol, 77 mg
reactant | 3-(1-benzyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionic acid | C(C1=CC=CC=C1)N1C(C(=CCC1)CCC(=O)O)=O | C15H17NO3
catalyst | DMAP | 3 M, 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-amino-phenyl)-3-(1-benzyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionamide | 96 mg, yield: 91% | NC1=C(C=CC=C1)NC(CCC=1C(N(CCC1)CC1=CC=CC=C1)=O)=O | C21H23N3O2
